US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(N,N-dimethylaminocarbonylethoxy)-20-methylpregna-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene (200 mg, 0.36 mmol), N,N-dimethylacrylamide (107 mg, 1.08 mmol), sodium hydride (60% in oil, 23 mg, 0.56 mmol) and tetrahydrofuran (4 ml) were subjected to reaction using a procedure similar to that of Example 25(1) (17 hours at room temperature), worked up and purified by preparative thin layer chromatography (4 sheets (each 1.0 mm thickness), ethyl acetate) to give the titled compound (114 mg, 47.1%) as white powder.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene | 0.36 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H60O3Si2
reactant | N,N-dimethylacrylamide | 1.08 mmol, 107 mg | CN(C(C=C)=O)C | C5H9NO
reactant | sodium hydride | 0.56 mmol, 23 mg | [H-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(N,N-dimethylaminocarbonylethoxy)-20-methylpregna-5,7,16-triene | 114 mg, 47.1% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C39H69NO4Si2
